US09422290B2
4-[6-(1-Benzyl-1H-indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidine-1-carboxylic acid tert-butyl ester
4-[6-(1H-Indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (71.00 mg; 0.16 mmol) was suspended in 300 μl THF and treated with NaH (10.19 mg; 0.26 mmol; 60% in mineral oil). After 10 minutes of stilling, Benzyl bromide (19.17 μl; 0.16 mmol) was added and stirred for 16 hours. The crude material was purified via flash chromatography and afterwards with reversed phase chromatography under basic conditions.

reactant | 4-[6-(1H-Indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.16 mmol, 71.00 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=2N(N=C(C1)C=1NC3=CC=CC=C3C1)C(=NN2)C | C24H29N7O2
reactant | NaH | 0.26 mmol, 10.19 mg | [H-].[Na+]
reactant | Benzyl bromide | 0.16 mmol, 19.17 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 300 μl | C1CCOC1 | C4H8O
product | 4-[6-(1-Benzyl-1H-indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=2N(N=C(C1)C=1N(C3=CC=CC=C3C1)CC1=CC=CC=C1)C(=NN2)C | C31H35N7O2
